US06727264B1
N-(3-{1-[(3S)-3-(3,4-DICHLOROPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A using 1,2-dichloro-4-{[(1S)-3-chloro-1-phenylpropyl]oxy}benzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 525.3 (M+H)+.

reactant | 1,2-dichloro-4-{[(1S)-3-chloro-1-phenylpropyl]oxy}benzene | ClC1=C(C=C(C=C1)O[C@@H](CCCl)C1=CC=CC=C1)Cl | C15H13Cl3O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[(3S)-3-(3,4-DICHLOROPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | ClC=1C=C(O[C@@H](CCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC1Cl | C30H34Cl2N2O2
